US04713393
Preparation of 5-benzyloxy-2,3-dihydrobenzofuran-6-carboxaldehyde
A 2-liter, 3-neck flask equipped with a nitrogen inlet, internal thermometer, mechanical stirrer, and reflux condenser was charged with 5-hydroxy-2,3-dihydrobenzofuran-6-carboxaldehyde (50.00 g; 0.30 moles), benzylbromide (38.6 ml, 0.34 moles), and crushed anhydrous K2CO3 (165.84 g, 1.20 moles). The reaction mixture was refluxed for 16 hours, cooled to room temperature and suction filtered. The filtrate was concentrated in vacuo to afford a yellow solid. The solid was dissolved in methylene chloride (600 ml) and washed sequentially with 0.5N sodium hydroxide solution (3×250 ml) and brine (2×250 ml). The organic phase was dried over MgSO4, suction filtered, and the filtrate concentrated in vacuo to yield a crude solid (85 g). The solid was dissolved in methylene chloride (300 ml)/n-hexane (200 ml), treated with charcoal and suction filtered through a bed of celite. The filtrate was evaporated in vacuo to approximately 300 ml and slowly cooled to 0° C. to produce yellowish flat needles (60 g, 78%).

reactant | 5-hydroxy-2,3-dihydrobenzofuran-6-carboxaldehyde | 0.30 moles, 50.00 g | OC=1C(=CC2=C(CCO2)C1)C=O | C9H8O3
reactant | benzylbromide | 0.34 moles, 38.6 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 1.20 moles, 165.84 g | C(=O)([O-])[O-].[K+].[K+]
reactant | charcoal | C | CH4
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | n-hexane | 200 ml | CCCCCC | C6H14
product | 5-benzyloxy-2,3-dihydrobenzofuran-6-carboxaldehyde | 60 g, 78% | C(C1=CC=CC=C1)OC=1C(=CC2=C(CCO2)C1)C=O | C16H14O3
